US08877779B2
Ethyl (5-fluoro-3,4-dihydro-2H-naphthalen-1-ylidene)acetate, 10% palladium carbon catalyst (3 g) and ethanol (150 ml) were stirred under a hydrogen atmosphere for 4 hr. The reaction mixture was filtered through celite, and concentrated to give ethyl (5-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)acetate.

reactant | Ethyl (5-fluoro-3,4-dihydro-2H-naphthalen-1-ylidene)acetate | FC1=C2CCCC(C2=CC=C1)=CC(=O)OCC | C14H15FO2
catalyst | palladium carbon | 3 g | [C].[Pd]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl (5-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)acetate | FC1=C2CCCC(C2=CC=C1)CC(=O)OCC | C14H17FO2
